US05569653
6-Fluoro-3-[1-(3-hydroxy-3-propylhexyl)-4-piperidinyl]-1,2-benzisoxazole hydrochloride
To a solution of ethyl 3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propionate (4.5 g, 14.0 mmol) in THF (120 ml) was added propylmagnesium chloride (21.1 ml, 42.0 mmol, 2.0M in ether) at room temperature under nitrogen (mild exotherm). The reaction mixture was stirred for 17 hours at which time it was carefully quenched with NH4Cl (sat., 30 ml). The layers were separated and the aqueous phase was extracted with EtOAc (2×). The combined organics were washed with brine and dried (Na2SO4). Filtration and concentration gave the crude product which was purified via flash column chromatography (silica gel, 2% Et3N/ether). After flushing the product through alumina with ether, the hydrochloride salt was prepared in ether/EtOAc (1:1, 40 ml, 1 drop IPA) with ethereal HCl to give 2.5 g (45%) of the desired product as a white solid, m.p.=163°-164° C.

reactant | ethyl 3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propionate | 14.0 mmol, 4.5 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC(=O)OCC)C=C1 | C17H21FN2O3
reactant | propylmagnesium chloride | 42.0 mmol, 2.0M, 21.1 ml | C(CC)[Mg]Cl
reactant | THF | 120 ml | C1CCOC1 | C4H8O
product | 6-Fluoro-3-[1-(3-hydroxy-3-propylhexyl)-4-piperidinyl]-1,2-benzisoxazole hydrochloride | 2.5 g, 45% | Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC(CCC)(CCC)O)C=C1 | InChI=1S/C21H31FN2O2.ClH/c1-3-9-21(25,10-4-2)11-14-24-12-7-16(8-13-24)20-18-6-5-17(22)15-19(18)26-23-20;/h5-6,15-16,25H,3-4,7-14H2,1-2H3;1H
